US04728653
1-(4-Amino-3-trifluoromethylphenyl)-2,4-dimethylimidazole (10 g) was dissolved in glacial acetic acid (70 cm3). A solution of 45% w/w hydrogen bromide in glacial acetic acid (7.4 cm3) was added. A solution of bromine (2.1 cm3) in glacial acetic acid (30 cm3) was then added dropwise. The mixture was heated at 70° for 3 hours, cooled, concentrated to a small volume by evaporation in vacuo, and basified to pH 8 by addition of aqueous sodium carbonate solution. The aqueous phase was extracted with chloroform (3×200 cm3) and the combined organic extracts were dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]), eluting with ethyl acetate. Combination and evaporation of appropriate fractions afforded 1-(3-bromo-4-amino-5-trifluoromethylphenyl)-2,4-dimethylimidazole (4.76 g), a small sample of which was recrystallised from ethyl acetate/hexane, m.p. 149°.

reactant | 1-(4-Amino-3-trifluoromethylphenyl)-2,4-dimethylimidazole | 10 g | NC1=C(C=C(C=C1)N1C(=NC(=C1)C)C)C(F)(F)F | C12H12F3N3
reactant | hydrogen bromide | Br | BrH
reactant | bromine | 2.1 cm3 | BrBr | Br2
solvent | acetic acid | 70 cm3 | C(C)(=O)O | C2H4O2
solvent | acetic acid | 7.4 cm3 | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 cm3 | C(C)(=O)O | C2H4O2
product | 1-(3-bromo-4-amino-5-trifluoromethylphenyl)-2,4-dimethylimidazole | 4.76 g | BrC=1C=C(C=C(C1N)C(F)(F)F)N1C(=NC(=C1)C)C | C12H11BrF3N3
